US09193741B2
Synthesis of 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxylic acid
A solution of ethyl 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxylate (0.12 g, 0.22 mmol) in methanol/2M NaOH/CH2Cl2 (5:5:1, 5 ml) was stirred at room temperature for 3 hours after which it was neutralized with a 2N HCl solution in dioxane. The solvents were removed under reduced pressure, and the crude residue was purified by flash chromatography on silica gel (CH2Cl2/MeOH 8:1) to yield the title compound as a pale yellow solid (50 mg, 44%).

reactant | ethyl 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxylate | 0.22 mmol, 0.12 g | ClC1=CC=C(OCC(=O)N2CCN(CC2)C=2C3=C(N=C(N2)C(=O)OCC)SC(=C3)C3=CC=C(C=C3)F)C=C1 | C27H24ClFN4O4S
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 2M, 5 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-(2-(4-chlorophenoxy)acetyl)piperazin-1-yl)-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine-2-carboxylic acid | 50 mg, 44% | ClC1=CC=C(OCC(=O)N2CCN(CC2)C=2C3=C(N=C(N2)C(=O)O)SC(=C3)C3=CC=C(C=C3)F)C=C1 | C25H20ClFN4O4S
